US07312222B2
Part F. Preparation of (+/−)-3-[4-(4-flourophenylmethyl)piperidinomethyl]-pyrrolidine.
To a stirring solution of 3-[4-(4-flourophenylmethyl)piperidinomethyl]-N-(benzyloxycarbonyl)-pyrrolidine (600 mg, 1.47 mmol) and 5% palladium on carbon (60 mg, Aldrich) in MeOH (50 mL) was added 50 psi of hydrogen. The reaction was stirred for 14 h. The reaction was filtered and the filtrate was conc. in vacuo to a colorless oil. The oil can be used without further purification. MS (ESI) 277 (M+H).

reactant | 3-[4-(4-flourophenylmethyl)piperidinomethyl]-N-(benzyloxycarbonyl)-pyrrolidine | 1.47 mmol, 600 mg | FC1=CC=C(C=C1)CC1CCN(CC1)CC1CN(CC1)C(=O)OCC1=CC=CC=C1 | C25H31FN2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 60 mg | [Pd] | Pd
solvent | MeOH | 50 mL | CO | CH4O
product | (+/−)-3-[4-(4-flourophenylmethyl)piperidinomethyl]-pyrrolidine | FC1=CC=C(C=C1)CC1CCN(CC1)CC1CNCC1 | C17H25FN2
